US06340768B1
Acetyidimethyl-3,3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-heptadecafluorodecylsilane was synthesized from ethyl vinyl ether and chlorodimethyl-3,3,4,4,5,5,6,6,7,7,8,8, 9,9,10,10,10-heptadecafluorodecylsilane after the procedure of Cunico and Kuan (J. Org. Chem. 1985, 50, 5410-5413).

reactant | ethyl vinyl ether | C(=C)OCC | C4H8O
reactant | chlorodimethyl-3,3,4,4,5,5,6,6,7,7,8,8, 9,9,10,10,10-heptadecafluorodecylsilane | Cl[Si](CCC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C)C | C12H10ClF17Si
product | Acetyidimethyl-3,3,4,4,5,5,6,6,7,7,8,8,9,9,10,10,10-heptadecafluorodecylsilane | C(C)(=O)[Si](CCC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C)C | C14H13F17OSi
